US07795249B2
To a solution of 1-(2-bromo-5-methoxyphenyl)methanamine (3.2 mmol) in DCM (15 mL) was added BOC2O (3.2 mmol). The reaction mixture was allowed to stir at rt overnight and then concentrated. The residue was purified by column chromatography to give tert-butyl (2-bromo-5-methoxybenzyl)carbamate (3.1 mmol, 95%).

reactant | 1-(2-bromo-5-methoxyphenyl)methanamine | 3.2 mmol | BrC1=C(C=C(C=C1)OC)CN | C8H10BrNO
reactant | BOC2O | 3.2 mmol | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (2-bromo-5-methoxybenzyl)carbamate | 3.1 mmol, 95% | BrC1=C(CNC(OC(C)(C)C)=O)C=C(C=C1)OC | C13H18BrNO3
